US09353070B2
2,2-difluoro-2-(2,4-diamino-5-fluoro-phenoxy)-N,N-dimethyl-acetamide
To a solution of 2,2-difluoro-2-(2,4-dinitro-5-fluoro-phenoxy)-N,N-dimethyl-acetamide (22.0 g, 68.1 mmol) in toluene (200 g) was added and Pd/C (10% Pd, dry catalyst, 0.7 g, 0.7 mmol). Thereafter, MeOH (80 g) was added and the mixture stirred under an atmosphere of hydrogen (pressure of 0.1 bar) at 45° C. for 90 min. After completion of the reaction the pressure was released, the catalyst was filtered off and the filtrate was evaporated to dryness. The product (17.3 g, 84% pure by NMR, 55.2 mmol, 81% yield) was obtained as an off-white solid. If desired, the purity can be increased by chromatography (SiO2, cyclohexane/EtOAc mixtures).

reactant | 2,2-difluoro-2-(2,4-dinitro-5-fluoro-phenoxy)-N,N-dimethyl-acetamide | 68.1 mmol, 22.0 g | FC(C(=O)N(C)C)(OC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-])F | C10H8F3N3O6
reactant | MeOH | 80 g | CO | CH4O
reactant | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 0.7 mmol, 0.7 g | [Pd] | Pd
product | 2,2-difluoro-2-(2,4-diamino-5-fluoro-phenoxy)-N,N-dimethyl-acetamide | 81% yield | FC(C(=O)N(C)C)(OC1=C(C=C(C(=C1)F)N)N)F | C10H12F3N3O2
